US06844345B2
c) 7-Ethyl-indole-1-carboxylic acid tert-butyl ester
7-Ethylindole (106.0 g, 0.73 mol) was dissolved in acetonitrile (1 l) and di-tert-butyl dicarbonate (191.0 g, 0.87 mol) and 4-(dimethylamino)pyridine (4.43 g, 36.0 mmol) were added successively. After 4.5 h the reaction mixture was concentrated and the residue was purified by column chromatography over silica gel (0.032-0.060 mm) with n-hexane/tert-butyl methyl ether (9/1) as eluant to yield the desired product as colorless oil (179 g, 100%). EI-MS: m/e=245.2 ([M]).

reactant | 7-Ethylindole | 0.73 mol, 106.0 g | C(C)C=1C=CC=C2C=CNC12 | C10H11N
reactant | di-tert-butyl dicarbonate | 0.87 mol, 191.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 36.0 mmol, 4.43 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 7-Ethyl-indole-1-carboxylic acid tert-butyl ester | 179 g, 100% | C(C)(C)(C)OC(=O)N1C=CC2=CC=CC(=C12)CC | C15H19NO2
